US04405628
1,3-dihydro-4-ethyl-isonicotinoyl-2H-imidazole-2-one
To 3.0 g (27 mmole) of 1,3-dihydro-4-ethyl-2H-imidazole-2-one and 4.74 g (27 mmole) isonicotinoyl chloride hydrochloride in 100 ml tetrachloroethane is added 21.3 g (160 mmole) aluminum chloride. The mixture is stirred at 85° C. for 4 hours and quenched with water. The solution is neutralized with sodium bicarbonate and the suspension filtered. The residue is washed with ethanol and the combined filtrates evaporated to dryness. Chromatography on silica gel afforded the title compound; m.p. 260°-63°.

reactant | 1,3-dihydro-4-ethyl-2H-imidazole-2-one | 27 mmole, 3.0 g | C(C)C=1NC(NC1)=O | C5H8N2O
reactant | isonicotinoyl chloride hydrochloride | 27 mmole, 4.74 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | aluminum chloride | 160 mmole, 21.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | tetrachloroethane | 100 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 1,3-dihydro-4-ethyl-isonicotinoyl-2H-imidazole-2-one | C(C)C1(C(=O)N2C(NC=C2)=O)CC=NC=C1 | C11H13N3O2
